US07091245B2
{4-[3,3-Bis-(4-pyridin-3-yl-phenyl)-allylsulfanyl]-2-trifluoromethyl-phenoxy}-acetic acid
A solution of {4-[3,3-bis-(4-pyridin-3-yl-phenyl)-allylsulfanyl]-2-trifluoromethyl-phenoxy}-acetic acid ethyl ester (70 mg, 0.1 mmol) in ethanol (10 ml) and 1N NaOH (0.5 ml) was stirred at 75° C. for 1 h. The reaction mixture was evaporated and the residue was treated with 1N HCl (0.7 ml) and extracted with methylene chloride (2×25 ml). The organic phases were dried and evaporated to give the title compound in 23 mg (34%) yield.

reactant | {4-[3,3-bis-(4-pyridin-3-yl-phenyl)-allylsulfanyl]-2-trifluoromethyl-phenoxy}-acetic acid ethyl ester | 0.1 mmol, 70 mg | C(C)OC(COC1=C(C=C(C=C1)SCC=C(C1=CC=C(C=C1)C=1C=NC=CC1)C1=CC=C(C=C1)C=1C=NC=CC1)C(F)(F)F)=O | C36H29F3N2O3S
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | NaOH | 1N, 0.5 ml | [OH-].[Na+]
product | {4-[3,3-Bis-(4-pyridin-3-yl-phenyl)-allylsulfanyl]-2-trifluoromethyl-phenoxy}-acetic acid | N1=CC(=CC=C1)C1=CC=C(C=C1)C(=CCSC1=CC(=C(OCC(=O)O)C=C1)C(F)(F)F)C1=CC=C(C=C1)C=1C=NC=CC1 | C34H25F3N2O3S
